US04076690
3-chloro-5-tert. butyl-4-hydroxybenzyl-phosphonic acid di-n-octadecyl ester
80.5 g of 3,5-di-tert. butyl-4-hydroxybenzyl-phosphonic acid di-n-octadecyl ester are dissolved in 250 ml of carbon tetrachloride and the solution is treated briefly with hydrogen chloride gas. The chlorination is effected by carefully bubbling in 10.5 g of chlorine gas for 3 hours at -5° C. The reaction mixture is allowed to come to room temperature and after stirring for a further 3 hours the solvent is removed in vacuo. The oily residue is digested with acetonitrile to purify the reaction product and the cyrstalline precipitate is isolated. The product is further purified by recrystallisation from aqueous ethylene glycol monomethyl ether. The resultant 3-chloro-5-tert. butyl-4-hydroxybenzyl-phosphonic acid di-n-octadecyl ester (stabiliser 3) forms white crystals with a melting point of 55° C.

reactant | 3,5-di-tert. butyl-4-hydroxybenzyl-phosphonic acid di-n-octadecyl ester | 80.5 g | C(CCCCCCCCCCCCCCCCC)OP(OCCCCCCCCCCCCCCCCCC)(=O)CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C51H97O4P
reactant | hydrogen chloride | Cl | ClH
solvent | carbon tetrachloride | 250 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-chloro-5-tert. butyl-4-hydroxybenzyl-phosphonic acid di-n-octadecyl ester | C(CCCCCCCCCCCCCCCCC)OP(OCCCCCCCCCCCCCCCCCC)(=O)CC1=CC(=C(C(=C1)C(C)(C)C)O)Cl | C47H88ClO4P
